US06432656B1
Preparation of N-[2-Hydroxy-3-(3-chlorophenoxy)propyl]-1,1-dimethyl-2-(4-methoxyphenyl)ethylamine Hydrochloride, Compound 43
Using the method of Example 25, supra, 3-chlorophenyl glycidyl ether (1.0 mmol) and 1,1-dimethyl-2-(4-methoxyphenyl)ethylamine (1.25 mmol) yielded 168 mg of the title compound as a white solid: GC/EI-MS, m/z (rel. int.) 348 (M−15, 0.9), 245 (7), 244 (35), 243 (25), 242 (100), 163 (7), 121 (22), 71 (11), 70 (16).

reactant | 3-chlorophenyl glycidyl ether | 1.0 mmol | C(C1CO1)OC1=CC(=CC=C1)Cl | C9H9ClO2
reactant | 1,1-dimethyl-2-(4-methoxyphenyl)ethylamine | 1.25 mmol | CC(CC1=CC=C(C=C1)OC)(C)N | C11H17NO
product | N-[2-Hydroxy-3-(3-chlorophenoxy)propyl]-1,1-dimethyl-2-(4-methoxyphenyl)ethylamine Hydrochloride | 168 mg | Cl.OC(CNC(CC1=CC=C(C=C1)OC)(C)C)COC1=CC(=CC=C1)Cl | InChI=1S/C20H26ClNO3.ClH/c1-20(2,12-15-7-9-18(24-3)10-8-15)22-13-17(23)14-25-19-6-4-5-16(21)11-19;/h4-11,17,22-23H,12-14H2,1-3H3;1H
